US05688991
In a three-necked flask, 19.5 g (0.1 mole) of ferulic acid, 13.0 g (0.1 mole) of 2-ethylhexanol, and 200 ml of toluene as a solvent were placed, and 1.0 g of paratoluenesulfonic acid as an acid catalyst was added. This reaction mixture was stirred at 80° C. for 13 hours. After cooled, the mixture was washed with saturated aqueous solution of sodium hydrogen carbonate. The organic layer was dried over anhydrous magnesium sulfate, and decolored by activated carbon. The solvent toluene was fully evaporated off from the organic layer under reduced pressure to obtain 25.5 g (yield: 85%) of 2-ethylhexyl ferulate.

reactant | ferulic acid | 0.1 mole, 19.5 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | 2-ethylhexanol | 0.1 mole, 13.0 g | C(C)C(CO)CCCC | C8H18O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-ethylhexyl ferulate | 25.5 g, yield: 85% | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)OCC(CCCC)CC | C18H26O4
